US09062034B2
(a) 5-chloro-thiophene-2-carboxylic acid(1-hydroxymethyl-2-methoxy-1-methoxymethyl-ethyl)-amide
1.14 g (6.16 mmol) 2-amino-3-methoxy-2-methoxymethyl-propan-1-ol are suspended in 9 ml THF, cooled in the ice bath and combined with 2.56 ml (18.4 mmol) TEA. 1.12 g (6.19 mmol) 5-chlorothiophene-2-carboxylic acid chloride are dissolved in 6 ml THF and added dropwise. After 1.5 h the mixture is filtered and the filtrate is concentrated by evaporation i.vac. Then it is purified by chromatography through RP material (Microsorb C18 Varian; eluant:water/acetonitrile/trifluoroacetic acid=90:10:0.1=>0:100:0.1).

reactant | 2-amino-3-methoxy-2-methoxymethyl-propan-1-ol | 6.16 mmol, 1.14 g | NC(CO)(COC)COC | C6H15NO3
reactant | 5-chlorothiophene-2-carboxylic acid chloride | 6.19 mmol, 1.12 g | ClC1=CC=C(S1)C(=O)Cl | C5H2Cl2OS
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 5-chloro-thiophene-2-carboxylic acid(1-hydroxymethyl-2-methoxy-1-methoxymethyl-ethyl)-amide | OCC(COC)(COC)NC(=O)C=1SC(=CC1)Cl | C11H16ClNO4S
